US05001137
To 50 ml of dimethylformamide are added 4.4 g of 2-mercapto-3-(2-thenoyl)pyridine and 1.5 g of sodium ethoxide The mixture is stirred at room temperature for 30 minutes. Thereto, 4.0 g of 6-dimethylaminohexyl chloride is added, and the mixture is stirred at room temperature for 24 hours. The mixture is poured into ice-water, followed by extraction with toluene. The extract is washed with water, and the solvent is distilled. The residue is subjected to silica gel column chromatography with chloroform as the eluent, and recrystallized from isopropyl ether to give 2-(6-dimethylaminohexylthio)-3-(2-thenoyl)pyridine, m.p. 69°-71° C.

reactant | 2-mercapto-3-(2-thenoyl)pyridine | 4.4 g | SC1=NC=CC=C1C(C1=CC=CS1)=O | C10H7NOS2
reactant | sodium ethoxide | 1.5 g | [O-]CC.[Na+]
reactant | 6-dimethylaminohexyl chloride | 4.0 g | CN(CCCCCCCl)C | C8H18ClN
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(6-dimethylaminohexylthio)-3-(2-thenoyl)pyridine | CN(CCCCCCSC1=NC=CC=C1C(C1=CC=CS1)=O)C | C18H24N2OS2
